US08283353B2
methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate
To a mixture of 60% sodium hydride in oil (3.27 g) and tetrahydrofuran (50 mL) was added dropwise a mixture of methyl 3-oxoheptanoate (16.18 g) in tetrahydrofuran (50 mL) at 0° C., and the mixture was stirred at room temperature for 30 min. Then, 2-[5-(chloromethyl)pyridin-2-yl]benzonitrile (4.45 g) and tetrabutylammonium iodide (2.27 g) were added, and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 M hydrochloric acid (70 mL), and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a yellow oil (0.88 g, 12%).

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 3-oxoheptanoate | 16.18 g | O=C(CC(=O)OC)CCCC | C8H14O3
reactant | 2-[5-(chloromethyl)pyridin-2-yl]benzonitrile | 4.45 g | ClCC=1C=CC(=NC1)C1=C(C#N)C=CC=C1 | C13H9ClN2
reactant | hydrochloric acid | 1 M, 70 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 2.27 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | methyl 2-{[6-(2-cyanophenyl)pyridin-3-yl]methyl}-3-oxoheptanoate | 0.88 g, 12% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=N1)CC(C(=O)OC)C(CCCC)=O | C21H22N2O3
